* SpiceNetList
* 
* Exported from untitled.sch at 18/03/2022 00:36
* 
* EAGLE Version 9.6.2 Copyright (c) 1988-2020 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
R_R2 N_4 V2 1 
V_VCUR_1 VT N_2 
R_R1 V2 N_2 1 
V_VCC VT 0 5V 
M_M1 N_4 VT 0 0 NFET 

* --------- models ---------

* (model found in library)

**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic nfet intrinsic model
**********************
.MODEL NFET NMOS (LEVEL=3)


* --------- simulation ---------
.print DC V(V2) V(VT) I(V_VCC) I(V_VCUR_1)
.print AC V(V2) V(VT) I(V_VCC) I(V_VCUR_1)
.print TRAN V(V2) V(VT) I(V_VCC) I(V_VCUR_1)
.END










